US05268401
Preparation of N-(2,2,6,6-tetramethyl-4-piperidyl)-3-morpholinopropylamine
288.4 g (2 mol) of 3-morpholinopropylamine, 310.5 g (2 mol) of 2,2,6,6-tetramethyl-4-piperidone and 300 ml of methanol are introduced into a 2 litre autoclave; 15 g of 5% Pt-on-carbon are added, and hydrogenation is carried out at 60 bar and 60° C. until the absorption of hydrogen ceases (about 15 hours).

reactant | 3-morpholinopropylamine | 2 mol, 288.4 g | O1CCN(CC1)CCCN | C7H16N2O
reactant | 2,2,6,6-tetramethyl-4-piperidone | 2 mol, 310.5 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
solvent | methanol | 300 ml | CO | CH4O
product | N-(2,2,6,6-tetramethyl-4-piperidyl)-3-morpholinopropylamine | CC1(NC(CC(C1)NCCCN1CCOCC1)(C)C)C | C16H33N3O
